US07951550B2
a. 2-cyano-6-(2-trifluoromethylbenzyloxy)benzothiazole
To a solution of 2-cyano-6-hydroxybenzothiazole (100 mg, 0.568 mmol) in 10 mL of acetone was added potassium carbonate (157 mg, 1.14 mmol), followed by 2-(trifluoromethyl)benzyl bromide (204 mg, 0.852 mmol). The mixture was then stirred at RT for about 5 hrs. The solvent was then removed under reduced pressure and the residue was dissolved in dichloromethane. The resultant solution was then extracted with dichloromethane. The organic phase was dried over sodium sulfate and purified by flash chromatography using dichloromethane. 148 mg of product was obtained.

reactant | 2-cyano-6-hydroxybenzothiazole | 0.568 mmol, 100 mg | C(#N)C=1SC2=C(N1)C=CC(=C2)O | C8H4N2OS
reactant | potassium carbonate | 1.14 mmol, 157 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(trifluoromethyl)benzyl bromide | 0.852 mmol, 204 mg | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 2-cyano-6-(2-trifluoromethylbenzyloxy)benzothiazole | 148 mg | C(#N)C=1SC2=C(N1)C=CC(=C2)OCC2=C(C=CC=C2)C(F)(F)F | C16H9F3N2OS
